US06730627B1
Preparation of Magnesium Chloride 2-Phenylbutyrate
5.52 g (51.6 mmoles) of the support obtained as already described, are suspended in 300 ml of toluene, operating in a stirred 1,000 ml reactor. 16.9 g (103.2 mmoles) of 2-phenylbutyric acid dissolved in 150 ml of anhydrous toluene (with a molar ratio phenylbutyric acid/MgCl2 equal to 2.0) are slowly added, under stirring, to the suspension obtained, kept at room temperature. At the end of the addition, nitrogen is bubbled in for 3 hours. The residue is filtered on a sintered glass septum.

reactant | 2-phenylbutyric acid | 103.2 mmoles, 16.9 g | C1(=CC=CC=C1)C(C(=O)O)CC | C10H12O2
reactant | phenylbutyric acid MgCl2 | C1(=CC=CC=C1)C(C(=O)O)CC.[Mg+2].[Cl-].[Cl-]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Magnesium Chloride 2-Phenylbutyrate | C1(=CC=CC=C1)C(C(=O)[O-])CC.[Cl-].[Mg+2] | InChI=1S/C10H12O2.ClH.Mg/c1-2-9(10(11)12)8-6-4-3-5-7-8;;/h3-7,9H,2H2,1H3,(H,11,12);1H;/q;;+2/p-2
